US06689588B1
Alliin was synthesized from L-cysteine and allyl bromide following oxidation by H2O2 by the procedure of Stoll and Seebeck, 1951. The stereospecific product obtained, (+)S-allyl-L-cysteine sulfoxide (M.P.=164°, [α]D in H2O+62.1°), was identical to the natural substrate, alliin (Yield: 15.7%).

reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | H2O2 | OO | H2O2
product | alliin | Yield: 15.7% | N[C@@H](CS(=O)CC=C)C(=O)O | C6H11NO3S
